US04148796
To a cooled solution of 3.6 g of γ-(4-benzyl-4-hydroxypiperidino)-2-aminobutyrophenone in 35 ml of 2N hydrochloric acid was added dropwise a solution of 0.74 g of sodium nitrite in 5 ml of water with stirring below 0° C. The resulting diazonium salt solution was added all at once to a cold suspension of 1.5 g of cuprous chloride in 5 ml of concentrated hydrochloric acid with vigorous stirring. The mixture was stirred for 30 minutes under cooling with ice, and stirring was continued for 2 hours at room temperature and then for 1 hour at 55°-60° C. After cooling, the reaction mixture was made alkaline, and extracted with chloroform. The extract was washed with water, dried and concentrated to a residue. The residue was treated with methanolic hydrogen chloride and recrystallization of the resulting solid matter from isopropanol gave γ-(4-benzyl-4-hydroxypiperidino)-2-chlorobutyrophenone hydrochloride.8c

reactant | γ-(4-benzyl-4-hydroxypiperidino)-2-aminobutyrophenone | 3.6 g | C(C1=CC=CC=C1)C1(CCN(CC1)CCC(C(=O)C1=CC=CC=C1)N)O | C22H28N2O2
reactant | sodium nitrite | 0.74 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 2N, 35 ml | Cl | ClH
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | γ-(4-benzyl-4-hydroxypiperidino)-2-chlorobutyrophenone hydrochloride | Cl.C(C1=CC=CC=C1)C1(CCN(CC1)CCC(C(=O)C1=CC=CC=C1)Cl)O | InChI=1S/C22H26ClNO2.ClH/c23-20(21(25)19-9-5-2-6-10-19)11-14-24-15-12-22(26,13-16-24)17-18-7-3-1-4-8-18;/h1-10,20,26H,11-17H2;1H
